US05135947
B. 1-Bromo-1-phenyl-3-(1-naphthalenyloxy)propane
A mixture of 26.2 g (0.1 mol) of 1-phenyl-3-(1-naphthalenyloxy)propane, 17.8 g (0.1 mol) of N-bromosuccinimide, 120 ml of carbon tetrachloride and 250 mg of benzoyl peroxide was heated at 80° C. for four hours. The mixture was cooled and the precipitated solid was collected by vacuum filtration. The mother liquor was concentrated under vacuum to provide 34.26 g of a red oil.

reactant | 1-phenyl-3-(1-naphthalenyloxy)propane | 0.1 mol, 26.2 g | C1(=CC=CC=C1)CCCOC1=CC=CC2=CC=CC=C12 | C19H18O
reactant | N-bromosuccinimide | 0.1 mol, 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 250 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-1-phenyl-3-(1-naphthalenyloxy)propane | 34.26 g | BrC(CCOC1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C19H17BrO
